US04438270
To a solution of 2-difluoromethyl-2,5-diamino-pentanoic acid monohydrate monohydrochloride (5 g or 21.13 mmole) in NaOH 2M (8.5 ml) is added at once ethylthiouronium hydrobromide (7.82 g or 42.26 mmole). The pH of the solution is adjusted to 10.5 with NaOH 2M and maintained to that value for 4 days. The reaction mixture is then neutralized to pH=7 with 1 M HCl and concentrated under reduced pressure. The residue is passed on an Amberlite IR 120 H+ form column. Elution with NH4OH 2 M affords 2-difluoromethyl-2-amino-5-guanidinopentanoic acid which is recrystallized from H2O/EtOH (2.3 g) m.p. 257° C.

reactant | 2-difluoromethyl-2,5-diamino-pentanoic acid monohydrate monohydrochloride | 21.13 mmole, 5 g | Cl.O.FC(C(C(=O)O)(CCCN)N)F
reactant | ethylthiouronium hydrobromide | 42.26 mmole, 7.82 g | Br.C(C)[NH+]=C(S)N
reactant | HCl | 1 M | Cl | ClH
solvent | NaOH | 2M, 8.5 ml | [OH-].[Na+]
solvent | NaOH | 2M | [OH-].[Na+]
product | 2-difluoromethyl-2-amino-5-guanidinopentanoic acid | FC(C(C(=O)O)(CCCNC(=N)N)N)F | C7H14F2N4O2
